US03932429
A mixture of 5.22 g of 1-(3-methoxyphenyl)-7-methyl-6-azabicyclo[3,2,1]octane hydrochloride and 52 ml of 47 % aqueous hydrobromic acid is refluxed for one hour under heating. After cooling, the crystalline precipitate is collected by filtration. The precipitate is recrystallized from a mixture of methanol and ether. 5.48 g of 1-(3-hydroxyphenyl)-7-methyl-6-azabicyclo[3,2,1]octane hydrobromide are obtained. M.p. 282°-284°C.

reactant | 1-(3-methoxyphenyl)-7-methyl-6-azabicyclo[3,2,1]octane hydrochloride | 5.22 g | Cl.COC=1C=C(C=CC1)C12CCCC(NC1C)C2
reactant | hydrobromic acid | 52 ml | Br | BrH
product | 1-(3-hydroxyphenyl)-7-methyl-6-azabicyclo[3,2,1]octane hydrobromide | 5.48 g | Br.OC=1C=C(C=CC1)C12CCCC(NC1C)C2 | InChI=1S/C14H19NO.BrH/c1-10-14(7-3-5-12(9-14)15-10)11-4-2-6-13(16)8-11;/h2,4,6,8,10,12,15-16H,3,5,7,9H2,1H3;1H
